US06573293B2
5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2,4-diisopropyl-1H-pyrrole-3-carboxylic Acid (3-diethylaminopropyl)amide
5-Bromo-1,3-dihydroindol-2-one (90 mg, 0.42 =mol) was condensed with 5-formyl-2,4-diisopropyl-1H-pyrrole-3-carboxylic acid (3-diethylaminopropyl)amide (140 mg) to give 54 mg (25%) of the title compound as red-brown solid.

reactant | 5-Bromo-1,3-dihydroindol-2-one | 90 mg | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 5-formyl-2,4-diisopropyl-1H-pyrrole-3-carboxylic acid (3-diethylaminopropyl)amide | 140 mg | C(C)N(CCCNC(=O)C1=C(NC(=C1C(C)C)C=O)C(C)C)CC | C19H33N3O2
product | 5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2,4-diisopropyl-1H-pyrrole-3-carboxylic Acid (3-diethylaminopropyl)amide | 54 mg, 25% | C(C)N(CCCNC(=O)C1=C(NC(=C1C(C)C)C=C1C(NC2=CC=C(C=C12)Br)=O)C(C)C)CC | C27H37BrN4O2
